US06232310B1
b) N-(4-Chloro-2-cyanomethylsulfonylphenyl)acetamide
Sodium hydride (0.10 g, 60% dispersion in mineral oil) was added at ambient temperature under nitrogen in small portions to a stirred solution of 2-acetylamino-5-chloro-benzenesulfinic acid (0.55 g) in dry dimethylformamide. After stirring for 35 min iodoacetonitrile (0.18 ml) was added and the temperature was raised to 70° C. for 45 min. Then the solvent was removed in vacuo. The residue was triturated with water (30 ml) and filtered. The filter cake was dried, stirred with a mixture of ether (5 ml) and petroleum ether (10 ml) for 1 h, filtered off and dried to give the title compound as white needles. Yield 0.52 g (81%), mp 173.5-174° C., 1H-NMR(DMSO-d6) δ (ppm): 9.69 (s, 1H); 8.06-7.87 (m, 3H); 5.37 (s, 2H), 2.16 (s, 3H); 13C-NMR (DMSO-d6) δ (ppm): 169.6, 136.6, 136.4, 130.5, 129.8, 129.5, 128.5, 112.0, 44.9, 24.3; IR(KBr) ν (cm−1): 3343(NH), 2258(CN), 1682(C═O), 1330(SO2), 1156 and 1140 (SO2).

reactant | Sodium hydride | 0.10 g | [H-].[Na+]
reactant | 2-acetylamino-5-chloro-benzenesulfinic acid | 0.55 g | C(C)(=O)NC1=C(C=C(C=C1)Cl)S(=O)O | C8H8ClNO3S
reactant | iodoacetonitrile | 0.18 ml | ICC#N | C2H2IN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-Chloro-2-cyanomethylsulfonylphenyl)acetamide | ClC1=CC(=C(C=C1)NC(C)=O)S(=O)(=O)CC#N | C10H9ClN2O3S
